US07834034B2
Methyl 5-[(chloroacetyl)amino]-1-benzothiophene-2-carboxylate.
To a solution of 5-amino-benzo[b]thiophene-2-carboxylic acid methyl ester (989 mg, 4.79 mmol) in CH2Cl2/THF (5/5 mL) was added NMM (630 μL, 5.73 mmol) and chloroacetylchloride (415 μL, 5.25 mmol). After stirring 2.5 h, the mixture was diluted with EtOAc and H2O, and the solid was filtered yielding a pale-white solid, which was used without further purification. MS: cal'd (MH+) 284, exp (MH+) 284.

reactant | 5-amino-benzo[b]thiophene-2-carboxylic acid methyl ester | 4.79 mmol, 989 mg | COC(=O)C1=CC2=C(S1)C=CC(=C2)N | C10H9NO2S
reactant | NMM | 5.73 mmol, 630 μL | CN1CCOCC1 | C5H11NO
reactant | chloroacetylchloride | 5.25 mmol, 415 μL | ClCC(=O)Cl | C2H2Cl2O
solvent | CH2Cl2 THF | 5 mL | C(Cl)Cl.C1CCOC1
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | H2O | O | H2O
product | Methyl 5-[(chloroacetyl)amino]-1-benzothiophene-2-carboxylate | ClCC(=O)NC=1C=CC2=C(C=C(S2)C(=O)OC)C1 | C12H10ClNO3S
